US08541450B2
Variant to Process Step a: 3-cyano-2-(chloromethyl)pyridine
20.0 g (131.45 mmol) of 2-hydroxymethyl-3-pyridinecarboxamide are suspended in 110 ml of acetonitrile and heated to 78° C. Within 15 minutes, 60.65 g (395.52 mmol) of phosphorus oxychloride are metered in and the mixture is heated to 81° C. for 2 hours. After cooling at 22° C., the reaction mixture is stirred into 200 ml of water at 40° C. After 100 ml of toluene have been added, the mixture is neutralized with sodium hydroxide solution with cooling. After phase separation, the organic phase is washed with 100 ml of water. Removal of the organic phase and evaporation of the solvent under reduced pressure gives rise initially to an oily residue which crystallizes on standing.

reactant | 2-hydroxymethyl-3-pyridinecarboxamide | 131.45 mmol, 20.0 g | OCC1=NC=CC=C1C(=O)N | C7H8N2O2
reactant | phosphorus oxychloride | 395.52 mmol, 60.65 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 200 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetonitrile | 110 ml | C(C)#N | C2H3N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-cyano-2-(chloromethyl)pyridine | C(#N)C=1C(=NC=CC1)CCl | C7H5ClN2
